US09056881B2
Ethyl bis(pentafluoroethyl)phosphinate, (C2F5)2P(O)OC2H5, (3.956 g; 12.0 mmol) is slowly added dropwise to dry and cooled (0° C.) pyridine (0.941 g; 11.9 mmol) in a 25 ml glass flask. A pale-yellow, more highly viscous solution forms spontaneously. After 30 minutes at 0° C. and 6 h at room temperature, the reaction solution is a brown-orange colour. The readily volatile constituents are removed in vacuo (10−3 mbar) at 40° C. N-Ethylpyridinium bis(pentafluoroethyl)phosphinate, [EPy][(C2F5)2P(O)O], (4.845 g; 11.8 mmol) can be isolated as highly viscous, intensely brown-orange liquid in quantitative yield and a purity of 99%.

reactant | Ethyl bis(pentafluoroethyl)phosphinate | FC(C(F)(F)F)(F)P(OCC)(=O)C(C(F)(F)F)(F)F | C6H5F10O2P
reactant | (C2F5)2P(O)OC2H5 | P(=O)(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)OCC | C6H5F10O2P
reactant | pyridine | 11.9 mmol, 0.941 g | N1=CC=CC=C1 | C5H5N
product | N-Ethylpyridinium bis(pentafluoroethyl)phosphinate | quantitative yield | FC(C(F)(F)F)(F)P([O-])(=O)C(C(F)(F)F)(F)F.C(C)[N+]1=CC=CC=C1 | InChI=1S/C7H10N.C4HF10O2P/c1-2-8-6-4-3-5-7-8;5-1(6,7)3(11,12)17(15,16)4(13,14)2(8,9)10/h3-7H,2H2,1H3;(H,15,16)/q+1;/p-1
